US08835659B2
Preparation of 3-(3,5-difluorophenyl)-4,6-dimethoxy-1-benzofuran, with the Following Structural Formula
This compound was prepared using Method B from 3,5-dimethoxyphenol and 2-bromo-1-(3,5-difluorophenyl)ethanone: Yield 68% following procedures B.2 and B.3; m.p. 102-103° C.; IR 2937, 1591, 1501, 1444, 1354, 1217, 1113 cm−1; 1H-NMR (300 MHz, δ ppm, CDCl3) 7.49 (s, 1H), 7.20-7.11 (m, 2H), 6.75 (tt, J=9.0 Hz, 2.3 Hz, 1H), 6.66 (d, J=1.9 Hz, 1H), 6.36 (d, J=1.9 Hz, 1H), 3.84 (s, 3H), 3.82 (s, 3H); 13C-NMR (75 MHz, δ ppm, CDCl3) 162.8 (dd, J=246.5 Hz, 13.3 Hz), 159.7, 158.2, 154.6, 140.7, 135.8 (t, J=10.6 Hz), 121.5, 112.2 (dd, J=8.1 Hz, 17.4 Hz), 109.2, 102.4 (t, J=25.5 Hz), 95.0, 88.6, 55.9, 55.5.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(3,5-difluorophenyl)ethanone | BrCC(=O)C1=CC(=CC(=C1)F)F | C8H5BrF2O
product | 3-(3,5-difluorophenyl)-4,6-dimethoxy-1-benzofuran | Yield 68% | FC=1C=C(C=C(C1)F)C1=COC2=C1C(=CC(=C2)OC)OC | C16H12F2O3
